US04024128
A solution of 8.0 g. of [(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]carbamic acid ethyl ester and 2.4 ml. of cyclopentylamine in 43 ml. of dioxane is heated under reflux for 1 hour and the solution subsequently evaporated in vacuo. Chromatography of the evaporation residue on 400 g. of silica gel with a mixture of 5 parts by volume of methanol and 95 parts by volume of chloroform yields the 1-cyclopentyl-3-[(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]urea, m.p. 179°-180° C.

reactant | [(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]carbamic acid ethyl ester | C(C)OC(NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(C)C)=O)C=C1)=O | C16H23N3O5S
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-cyclopentyl-3-[(3-dimethylcarbamoyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)sulfonyl]urea | C1(CCCC1)NC(=O)NS(=O)(=O)C1=CC2=C(CCN(CC2)C(N(C)C)=O)C=C1 | C19H28N4O4S
